US07645757B2
2.1. 1-(4-bromobutyl)-1H-indole
0.96 g (17.07 mmol) of sodium hydroxide is added in small portions to a solution, cooled by a bath of ice-cold water, of 2 g (17.07 mmol) of 1H-indole and of 1.15 ml (51.22 mmol) of 1,4-dibromobutane in 80 ml of dimethylformamide. The bath is removed and stirring is continued at ambient temperature for 15 hours.

reactant | sodium hydroxide | 17.07 mmol, 0.96 g | [OH-].[Na+]
reactant | 1H-indole | 17.07 mmol, 2 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 1,4-dibromobutane | 51.22 mmol, 1.15 ml | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 1-(4-bromobutyl)-1H-indole | BrCCCCN1C=CC2=CC=CC=C12 | C12H14BrN
